US08669234B2
1,4-Dioxane (300 mL) was added to a mixture of (S)-2-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (21.1 g, 53.7 mmol), bis(pinacolato)diboron (27.3 g, 107.5 mmol), tetrakis(triphenylphosphine)palladium (0) (3.10 g, 2.68 mmol), and potassium acetate (15.02 g, 153.0 mmol), and heated at 80° C. for 16 hours. The mixture was cooled and the resulting solid was filtered. The majority of the 1,4-dioxane was removed from the filtrate under reduced pressure and resulting residue was taken up in ethyl acetate (300 mL). The organic phase was washed with saturated sodium bicarbonate (2×150 mL), brine (100 mL) and dried over sodium sulfate. After filtration the solvent was removed from the filtrate under reduced pressure. The resulting oil was subjected to silica gel chromatography using a 330 g ISCO column and effluent of 20-100% ethyl acetate and hexanes. The fractions containing product were combined and the solvent was removed under reduced pressure to provide (S)-2-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester (18 g, 76%) and light yellow solid.

reactant | 1,4-Dioxane | 300 mL | O1CCOCC1 | C4H8O2
reactant | (S)-2-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 53.7 mmol, 21.1 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C=1NC(=CN1)C1=CC=C(C=C1)Br | C18H22BrN3O2
reactant | bis(pinacolato)diboron | 107.5 mmol, 27.3 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 153.0 mmol, 15.02 g | C(C)(=O)[O-].[K+]
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 2.68 mmol, 3.10 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-2-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 18 g, 76% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C24H34BN3O4
